* C:\users\mateus\Área de Trabalho\Projeto-Filtros-Ativos\simulation\MFB-HighPass.asc
C1 N001 IN 68n
C4 N001 OUT 33n
C3 N001 N002 68n
R2 N001 P001 68
R5 OUT N002 1.6k
R21 P001 0 56
V1 IN 0 AC 1
V2 +VCC 0 12
V3 0 -VCC 12
XU1 0 N002 +VCC -VCC OUT LM741
.ac dec 10 1 1Meg
.lib LM741.lib
.backanno
.end
